US04908384
a. 2-(4-Pentylphenoxymethyl)oxirane
A mixture of 44 g of 4-pentylphenol (Eastman Kodak), 50 ml of epichlolorohydrin, 120 g of potassium carbonate in 250 ml methyl ethyl ketone was refluxed for 12 hr. Residual after removal of solid and solvent was distilled through a Kugelrohr adaptor to give the title compound, bp 180°-195°/0.3 mmHg.

reactant | 4-pentylphenol | 44 g | C(CCCC)C1=CC=C(C=C1)O | C11H16O
reactant | potassium carbonate | 120 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl ethyl ketone | 250 ml | C(C)C(=O)C | C4H8O
product | 2-(4-Pentylphenoxymethyl)oxirane | C(CCCC)C1=CC=C(OCC2OC2)C=C1 | C14H20O2
